US06413948B1
Benzyl[2,4-di(benzyloxycarbonyl)butyl]phosphinic acid (0.5 g, 1.0 mmol) in 20 mL of water containing 120 mg of 10% Pd/C was hydrogenated at 40 psi for 6 hours. Filtration through a Celite pad followed by evaporation on high vacuum gave 0.17 g (57%) of 2-[(benzylhydroxyphosphinyl)methyl]-pentanedioic acid (4 R=CH2Ph) as a white solid.

reactant | Benzyl[2,4-di(benzyloxycarbonyl)butyl]phosphinic acid | 1.0 mmol, 0.5 g | C(C1=CC=CC=C1)P(O)(=O)CC(CCC(=O)OCC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1 | C27H29O6P
solvent | water | 20 mL, 120 mg | O | H2O
catalyst | Pd/C | [Pd] | Pd
product | 2-[(benzylhydroxyphosphinyl)methyl]-pentanedioic acid | 0.17 g, 57% | C(C1=CC=CC=C1)P(=O)(O)CC(C(=O)O)CCC(=O)O | C13H17O6P
